US08703805B2
Preparation of 2-{4-Chloro-1-(2-fluoro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazol-3-yl}-propan-2-ol
To a stirred solution of 2-{1-(2-Fluoro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazol-3-yl}-propan-2-ol (115 mg, 0.25 mmol) in dry MeCN was added N-chlorosuccinimide (35 mg, 026 mmol) at 20° C. and the reaction mixture was stirred in a sealed vial at 75° C. overnight. Evaporation of solvent gave a residue, which was purified by flash chromatography on silica gel eluting with EtOAC-hexane (0-60%) to afford the title compound as a white solid (123 mg, 100%). 1H-NMR (CDCl3): δ 8.08 (m, 1H), 7.84 (m, 1H), 7.78 (m, 1H), 7.59-7.49 (m, 3H), 7.30-7.28 (m, 2H), 7.17 (t, 1H), 7.03 (d, 1H), 3.08 (s, 4H), 1.74 (s, 6H).

reactant | 2-{1-(2-Fluoro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazol-3-yl}-propan-2-ol | 0.25 mmol, 115 mg | FC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(C)(C)O | C23H21FN2O3S2
reactant | N-chlorosuccinimide | 35 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | MeCN | CC#N | C2H3N
product | 2-{4-Chloro-1-(2-fluoro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazol-3-yl}-propan-2-ol | 123 mg, 100% | ClC=1C(=NN(C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)F)C(C)(C)O | C23H20ClFN2O3S2
